US04673746
E-2'-fluoro-2-hydroxy-4-methoxy-3-methylbenzophenone oxime (20.0 g) is warmed on a steam bath for one hour with 12 ml of acetic anhydride. The acetic anhydride is evaporated in vacuo and the product is distributed between ether and H2O, then the ether is washed with 10% NaHCO3. Evaporation and trituration of the crystalline product with hexane gives E-2'-fluoro-2-hydroxy-4-methoxy-3-methylbenzophenone O-acetyl oxime, mp 83°-86° C.

reactant | E-2'-fluoro-2-hydroxy-4-methoxy-3-methylbenzophenone oxime | 20.0 g | FC1=C(C=CC=C1)/C(/C1=C(C(=C(C=C1)OC)C)O)=N/O | C15H14FNO3
reactant | acetic anhydride | 12 ml | C(C)(=O)OC(C)=O | C4H6O3
product | E-2'-fluoro-2-hydroxy-4-methoxy-3-methylbenzophenone O-acetyl oxime | C(C)(=O)O\N=C(/C1=C(C(=C(C=C1)OC)C)O)\C1=C(C=CC=C1)F | C17H16FNO4
